US08835420B2
(S)-2,4-Diamino-6-((1-(1-methyl-6-(pyridin-2-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
A solution of (S)-1-(1-methyl-6-(pyridin-2-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine hydrochloride (50 mg, 0.198 mmol), 2,4-diamino-6-chloropyrimidine-5-carbonitrile (50.4 mg, 0.297 mmol), and N-ethyl-N-isopropylpropan-2-amine (0.104 mL, 0.594 mmol) in acetonitrile (6 mL), was heated in a microwave reactor at 120° C. for 2 hours. After cooling to room temperature, the reaction mixture was concentrated, re-dissolved in DMF, and purified by preparative HPLC (basic mode) using a 20-30% CH3CN gradient in H2O. The desired fractions were combined and solvent was removed in vacuo. The residue was purified again by preparative HPLC (basic mode) using a 25-35% CH3CN gradient in H2O. The pure fractions were combined and the solvent was removed in vacuo to give the title compound as a colorless film (24 mg, 31%). 1H NMR (500 MHz, CD3OD) δ ppm 1.59 (d, J=7.32 Hz, 3 H), 4.04 (br s, 3 H), 5.84 (q, J=7.32 Hz, 1 H), 6.88 (d, J=3.42 Hz, 1 H), 7.62-7.68 (m, 1 H), 7.90 (d, J=7.81 Hz, 1 H), 8.08 (d, J=2.93 Hz, 1 H), 8.16 (td, J=7.81, 1.95 Hz, 1H), 8.66 (s, 1H), 8.83 (d, J=4.88 Hz, 1H). ESI-MS m/z [M+H]+ calc'd for C20H19N9, 386. found 386.

reactant | (S)-1-(1-methyl-6-(pyridin-2-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine hydrochloride | 0.198 mmol, 50 mg | Cl.CN1C=CC2=NC(=C(C=C21)C2=NC=CC=C2)[C@H](C)N
reactant | 2,4-diamino-6-chloropyrimidine-5-carbonitrile | 0.297 mmol, 50.4 mg | NC1=NC(=C(C(=N1)N)C#N)Cl | C5H4ClN5
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.594 mmol, 0.104 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (S)-2,4-Diamino-6-((1-(1-methyl-6-(pyridin-2-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)N)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=NC=CC=C2 | C20H19N9
